US06699863B1
Preparation of 5-chloro-3-(1H-pyrrol-2-yl-methylene)-1,3-dihydro-indol-2-one
A mixture of 5-chlorooxindole (6.98 g, 41.6 mmol), 3,5-dimethyl-1H-pyrrole-2-carboxaldehyde (5.12 g, 41.6 mmol) and piperidine (410 μL, 4.16 mmol) in 200 mL of EtOH was heated at reflux for 8 h. The reaction mixture was cooled to room temperature and filtered to give the title compound (4.50 g, 40%) as a red/orange solid.

reactant | 5-chlorooxindole | 41.6 mmol, 6.98 g | ClC=1C=C2CC(NC2=CC1)=O | C8H6ClNO
reactant | 3,5-dimethyl-1H-pyrrole-2-carboxaldehyde | 41.6 mmol, 5.12 g | CC1=C(NC(=C1)C)C=O | C7H9NO
reactant | piperidine | 4.16 mmol, 410 μL | N1CCCCC1 | C5H11N
solvent | EtOH | 200 mL | CCO | C2H6O
product | 5-chloro-3-(1H-pyrrol-2-yl-methylene)-1,3-dihydro-indol-2-one | 4.50 g, 40% | ClC=1C=C2C(C(NC2=CC1)=O)=CC=1NC=CC1 | C13H9ClN2O
